US08431574B2
Step A. Preparation of 2-(4-bromo-2-fluorophenylamino)-6-chloro-nicotinic acid
To a solution of 4-bromo-2-fluorophenylamine (10.4 g, 54.7 mmol) in THF (25 mL) at −78° C. under N2 was added lithium bis(trimethylsilyl)amide (83.3 mL, 83.3 mmol, 1 M solution in hexanes) dropwise over 15 minutes. The reaction mixture was stirred for one hour at −78° C. 2,6-Dichloro-nicotinic acid (5.00 g, 26.0 mmol) was then added dropwise as a solution in THF (15 mL) and the reaction mixture was allowed to warm from −78° C. to room temperature and stir for 16 hours. The reaction mixture was quenched by the addition of H2O and the pH was adjusted to 0-2 with 6 N HCl and then diluted with EtOAc. The organic layer was separated and washed with H2O, saturated NaCl, dried (Na2SO4), and concentrated under reduced pressure. The crude product was triturated several times with ethyl acetate and the resulting solid was collected, washed with dichloromethane and dried under vacuum to yield 7.50 g (83%) pure desired product as a dark pink solid.

reactant | 4-bromo-2-fluorophenylamine | 54.7 mmol, 10.4 g | BrC1=CC(=C(C=C1)N)F | C6H5BrFN
reactant | lithium bis(trimethylsilyl)amide | 83.3 mmol, 1 M, 83.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2,6-Dichloro-nicotinic acid | 26.0 mmol, 5.00 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(4-bromo-2-fluorophenylamino)-6-chloro-nicotinic acid | 7.50 g, 83% | BrC1=CC(=C(C=C1)NC1=C(C(=O)O)C=CC(=N1)Cl)F | C12H7BrClFN2O2
